US07064124B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(tert-butoxycarbonylmethyloxy)benzoyl]morpholine
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]morpholine (0.200 g, 0.465 mmol) was dissolved in acetone (30 ml) and after adding thereto anhydrous sodium carbonate (0.077 g, 0.558 mmol) and tert-butyl bromoacetate (0.109 g, 0.558 mol), the solution was refluxed under heating for 3 hours. The reaction solution was filtered, the filtrate was concentrated and the obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=2:1) to obtain the titled compound (0.198 g, 0.363 mmol, 78%).

reactant | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]morpholine | 0.465 mmol, 0.200 g | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCOCC3)C2)O)C(=C(C1OC)OC)OC)C | C23H29NO7
reactant | sodium carbonate | 0.558 mmol, 0.077 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl bromoacetate | 0.558 mol, 0.109 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(tert-butoxycarbonylmethyloxy)benzoyl]morpholine | 0.363 mmol, 0.198 g, 78% | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCOCC3)C2)OCC(=O)OC(C)(C)C)C(=C(C1OC)OC)OC)C | C29H39NO9
